US09163008B2
To a mixture of the (S)-methyl 2-chloro-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate (4.826 g, 17.63 mmol) in dioxane (100 mL) was added 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (6.651 g, 21.17 mmol), 2M aqueous Na2CO3 (17.6 mL, 35.2 mmol) and PdCl2(dppf) (0.727 g, 0.89 mmol). The flask was flushed with argon, sealed, and heated on a 100° C. oil bath for 30 minutes. The flask ruptured. As much of the reaction mixture as possible was partitioned between methanol and hexanes. The hexanes were removed and the methanol layer was washed a second time. The methanol fraction was evaporated in vacuo and chromatographed over silica gel with 20-60% EtOAc in hexanes. The product fractions were isolated and evaporated in vacuo and chromatographed a second time over silica gel with 10-50% EtOAc in hexanes. The product fractions were evaporated in vacuo and the resulting solid triturated with 2 mL MeOH, filtered, rinsed once with 1 mL MeOH, and dried under vacuum at 40° C. to give (S)-methyl 2-(4-(4-fluorophenoxy)phenyl)-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate as a yellow powder (0.140 g, 0.329 mmol, 2% yield). 1H NMR (400 MHz, DMSO-d6): 8.34-8.25 (3H, m), 7.31-7.24 (2H, m), 7.19-7.14 (2H, m), 7.10 (1H, s), 7.06 (2H, d, J=8.8 Hz), 4.60-4.52 (1H, m), 3.89 (3H, s), 3.64 (3H, s), 1.45 (3H, d, J=7.2 Hz). LC/MS: m/z=426.1 [M+H]+.

reactant | (S)-methyl 2-chloro-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate | 17.63 mmol, 4.826 g | ClC1=NC(=CC(=N1)C(=O)OC)N[C@H](C(=O)OC)C | C10H12ClN3O4
reactant | 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 21.17 mmol, 6.651 g | FC1=CC=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C18H20BFO3
reactant | Na2CO3 | 35.2 mmol, 2M, 17.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.89 mmol, 0.727 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-methyl 2-(4-(4-fluorophenoxy)phenyl)-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate | 0.329 mmol, 0.140 g, 2% yield | FC1=CC=C(OC2=CC=C(C=C2)C2=NC(=CC(=N2)C(=O)OC)N[C@H](C(=O)OC)C)C=C1 | C22H20FN3O5
